US04262117
Preparation of (Z)-cis and trans 3-(β-cyanostyryl)-2,2-dimethyl-cyclopropanecarboxylic acid α-cyano-m-(p-chlorophenoxy)benzyl ester by a phase transfer catalyst esterification process
Thionyl chloride (1.61 ml, 2.6 g; 0.022 mole), 3-(β-cyanostyryl)-2,2-dimethyl-cyclopropanecarboxylic acid (4.82 g; 0.02 mole) and toluene are mixed and heated at 100° C. for 1 hour. The reaction mixture is cooled to 25° C. and a solution of m-(p-chlorophenoxy)benzaldehyde (4.65 g; 0.02 mole) and 18-crown-6 (0.49 g; 0.002 mole) in toluene (10 ml) is added. To this reaction mixture a solution of potassium cyanide (2.6 g; 0.04 mole) in water (6 ml) is added slowly while maintaining the temperature between 20°-25° C. The reaction mixture is then stirred for 18 hours at room temperature. The resultant black reaction mixture is poured in water and extracted with ether (3X). The combined ether extracts are washed with water, 10% hydrochloric acid, 10% sodium bicarbonate, water and saturated sodium chloride solution. The ether layer is dried over sodium sulfate and evaporated in vacuo to leave a brown gum. This gum is purified by dry column chromatography (silica gel; eluent: 1:1 methylene chloride:hexane) to afford the title product, a yellow glass (1.0 g, 8.6%).

reactant | Thionyl chloride | 0.022 mole, 1.61 ml, 2.6 g | S(=O)(Cl)Cl | Cl2OS
reactant | 3-(β-cyanostyryl)-2,2-dimethyl-cyclopropanecarboxylic acid | 0.02 mole, 4.82 g | C(#N)C(=CC1C(C1C(=O)O)(C)C)C1=CC=CC=C1 | C15H15NO2
reactant | m-(p-chlorophenoxy)benzaldehyde | 0.02 mole, 4.65 g | ClC1=CC=C(OC=2C=C(C=O)C=CC2)C=C1 | C13H9ClO2
reactant | 18-crown-6 | 0.002 mole, 0.49 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | potassium cyanide | 0.04 mole, 2.6 g | [C-]#N.[K+]
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 6 ml | O | H2O
product | trans 3-(β-cyanostyryl)-2,2-dimethyl-cyclopropanecarboxylic acid α-cyano-m-(p-chlorophenoxy)benzyl ester | C(#N)C(C1=CC(=CC=C1)OC1=CC=C(C=C1)Cl)OC(=O)[C@@H]1C([C@H]1C=C(C1=CC=CC=C1)C#N)(C)C | C29H23ClN2O3
